US07129238B2
(RS)-Ethoxy-(2-fluoro-4-methoxy-phenyl)-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure B to give (RS)-N-(4-cyano-benzyl)-2-ethoxy-2-(2-fluoro-4-methoxy-phenyl)-acetamide. Yellow oil. MS 343.2 ([M+H]+)

reactant | (RS)-Ethoxy-(2-fluoro-4-methoxy-phenyl)-acetic acid | C(C)OC(C(=O)O)C1=C(C=C(C=C1)OC)F | C11H13FO4
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-N-(4-cyano-benzyl)-2-ethoxy-2-(2-fluoro-4-methoxy-phenyl)-acetamide | C(#N)C1=CC=C(CNC(C(C2=C(C=C(C=C2)OC)F)OCC)=O)C=C1 | C19H19FN2O3
